US09193707B2
2. Synthesis of ethyl 6-methoxy-1-oxo-1,2,3,4-tetrahydroisoquinolin-5-yl carbonate
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed polyphosphoric acid (PPA, 150 g). This was followed by the addition of 2-[2-[(ethoxycarbonyl)amino]ethyl]-6-methoxyphenyl ethyl carbonate (20 g, 64.24 mmol, 1.00 equiv) at 145° C. The resulting solution was stirred for 20 min at 140-145° C. The reaction mixture was cooled to room temperature with a water/ice bath. The resulting solution was diluted with 500 mL of ethyl acetate and 500 mL of water. The resulting mixture was washed with 3×300 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1). This resulted in 1.5 g (9%) of ethyl 6-methoxy-1-oxo-1,2,3,4-tetrahydroisoquinolin-5-yl carbonate as a gray solid. MS (ESI) m/z 266 ([M+H]+).

reactant | 2-[2-[(ethoxycarbonyl)amino]ethyl]-6-methoxyphenyl ethyl carbonate | 64.24 mmol, 20 g, 1.00 equiv | C(OC1=C(C=CC=C1OC)CCNC(=O)OCC)(OCC)=O | C15H21NO6
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 500 mL | O | H2O
product | ethyl 6-methoxy-1-oxo-1,2,3,4-tetrahydroisoquinolin-5-yl carbonate | C(OCC)(OC1=C2CCNC(C2=CC=C1OC)=O)=O | C13H15NO5
